US08580399B2
A mixture solution of 9-(9-tosyl-carbazol-3-yl)-pyrido[2,3-b]indole (9.9 g, 20.30 mmol) and NaOH (8.12 g, 203 mmol) in THF (100 mL), ethanol (50 mL) and water (50 mL) was refluxed over weekend. After cooling to room temperature, the white solid was obtained by filtration, and washed successively with water, ethanol, DCM and ethanol to yield the 9-(9H-carbazol-3-yl)-9H-pyrido[2,3-b]indole (4.8 g).

reactant | 9-(9-tosyl-carbazol-3-yl)-pyrido[2,3-b]indole | 20.30 mmol, 9.9 g | S(=O)(=O)(C1=CC=C(C)C=C1)N1C2=CC=CC=C2C=2C=C(C=CC12)N1C2=C(C3=CC=CC=C13)C=CC=N2 | C30H21N3O2S
reactant | NaOH | 203 mmol, 8.12 g | [OH-].[Na+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | water | 50 mL | O | H2O
product | 9-(9H-carbazol-3-yl)-9H-pyrido[2,3-b]indole | 4.8 g | C1=CC(=CC=2C3=CC=CC=C3NC12)N1C2=C(C3=CC=CC=C13)C=CC=N2 | C23H15N3
